US07371865B2
can be prepared from (E)-(3R,5S)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide by hydrolysis with sodium hydroxide according to the procedure described above for the preparation of (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid. After completion of the hydrolysis, excess sodium hydroxide is neutralised by addition of hydrochloric acid and the solvent is evaporated under reduced pressure. As a work-up variant, the residue is dissolved in water at 60-70° C. and the solution is allowed to cool down to room temperature. Crystallisation occurs. The formed suspension is cooled down to 5° C., stirred for several hours at this temperature to complete the crystallisation and the product is isolated by filtration. (E)-(3R,5S)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-hept-6-enoic acid sodium salt is obtained as beige to yellow crystalline product.

reactant | (E)-(3R,5S)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-hept-6-enoic acid ((S)-1-phenyl-ethyl)-amide | C1(=CC=CC=C1)[C@H](C)NC(C[C@@H](C[C@@H](\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)O)O)=O | C32H35FN2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | (E)-(3R,5S)-7-[2-Cyclopropyl-4-(4-fluoro-phenyl)-quinolin-3-yl]-3,5-dihydroxy-hept-6-enoic acid | C1(CC1)C1=NC2=CC=CC=C2C(=C1/C=C/[C@H](C[C@H](CC(=O)O)O)O)C1=CC=C(C=C1)F | C25H24FNO4
reactant | hydrochloric acid | Cl | ClH
product | (E)-(3R,5S)-7-[3-(4-Fluoro-phenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxy-hept-6-enoic acid sodium salt | [Na+].FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/[C@H](C[C@H](CC(=O)[O-])O)O | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;/t18-,19-;/m1./s1
